US06057317
2-(4,5-Dihydro-1H-2-imidazolyl)-2,4-dimethyl-3,4-dihydro-2H-1,4-benzoxazine Oxalate
2,4-Dimethyl-2-methoxycarbonyl-3,4-dihydro-2H-1,4-benzoxazine 20 ml of 5% KOH are added to 11.3 mmol (2.5 g) of 2-ethoxycarbonyl-4-methyl-3,4-dihydro-2H-1,4-benzoxazine (described in J. Heterocyclic Chem., 1985, 22, 177) in 10 ml of ethanol and 10 ml of tetrahydrofuran. The reaction mixture is stirred at room temperature for 1 hour. The solvent is evaporated off, and the resulting residue is taken up in an ethyl acetate/water mixture, at acidic pH, and extracted. The organic phase is dried and concentrated. The residue is then dissolved in 90 ml of tetrahydrofuran and the temperature is reduced to -50° C. before the addition of 45.2 mmol (22.6 ml) of lithium diisopropylamide as a 2M solution in tetrahydrofuran. The reaction mixture is stirred for 2 hours at -50° C., and then 45.2 mmol (2.7 ml) of iodomethane are added and the temperature is brought back up to 25° C. in the course of 2 hours. After hydrolysis, the mixture is acidified to pH=4 and extracted with ethyl acetate. The organic phase is dried and concentrated. The residue is then dissolved in 150 ml of methanol in the presence of para-toluenesulphonic acid. The reaction mixture is heated at reflux for 18 hours. The solvent is evaporated off, and the mixture is taken up in an ethyl acetate/water mixture and extracted. The organic phase is dried, concentrated and purified by chromatography on silica gel using an ethyl acetate/petroleum ether mixture (3/7) as eluant to yield the expected compound.

reactant | 2,4-Dimethyl-2-methoxycarbonyl-3,4-dihydro-2H-1,4-benzoxazine | 20 ml | CC1(OC2=C(N(C1)C)C=CC=C2)C(=O)OC | C12H15NO3
reactant | KOH | [OH-].[K+]
reactant | 2-ethoxycarbonyl-4-methyl-3,4-dihydro-2H-1,4-benzoxazine | 11.3 mmol, 2.5 g | C(C)OC(=O)C1OC2=C(N(C1)C)C=CC=C2 | C12H15NO3
reactant | lithium diisopropylamide | 45.2 mmol, 22.6 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | iodomethane | 45.2 mmol, 2.7 ml | IC | CH3I
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(4,5-Dihydro-1H-2-imidazolyl)-2,4-dimethyl-3,4-dihydro-2H-1,4-benzoxazine Oxalate | C(C(=O)O)(=O)O.N1C(=NCC1)C1(OC2=C(N(C1)C)C=CC=C2)C | InChI=1S/C13H17N3O.C2H2O4/c1-13(12-14-7-8-15-12)9-16(2)10-5-3-4-6-11(10)17-13;3-1(4)2(5)6/h3-6H,7-9H2,1-2H3,(H,14,15);(H,3,4)(H,5,6)
